US07723333B2
Methyl (3-{3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propoxy}phenyl)acetate
The title compound was prepared as described for Example 12 from methyl (3-hydroxyphenyl)acetate and 3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-methylbenzenesulfonate. The reaction mixture was evaporated and the residue was purified by silica gel column chromatography (Horizons Biotage) using 20-40% EtOAc in petroleum ether 40-60° C. as eluent. The product containing fractions were evaporated and the residue was dissolved in EtOAc, washed with aqueous K2CO3 (2M) and evaporated give the title compound (0.097 g, 66%). 1H NMR (500 MHz CDCl3): δ 7.55-7.48 (m, 2H), 7.46-7.40 (m, 3H), 7.26 (t, 1H), 6.90 (dd, 1H), 6.82-6.78 (m, 2H), 5.76 (t, 1H), 3.90 (t, 2H), 3.72 (s, 3H), 3.61 (s, 2H), 3.14-3.06 (m, 2H), 1.90-1.80 (m, 2H), 1.75 (s, 9H); 13C NMR (125 MHz CDCl3): δ 172.1, 159.8, 158.7, 135.7, 135.3, 131.8, 129.9, 129.8, 128.8, 125.3, 122.3, 115.5, 113.4, 107.2, 65.9, 61.7, 52.3, 42.4, 41.4, 29.0, 27.8; Mass Spectrum: M+H+ 487.

reactant | methyl (3-hydroxyphenyl)acetate | OC=1C=C(C=CC1)CC(=O)OC | C9H10O3
reactant | 3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCCNC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)(C)C)=O | C23H28N2O6S2
product | Methyl (3-{3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propoxy}phenyl)acetate | 0.097 g, 66% | C(C)(C)(C)N1S(C(=C(C1=O)NCCCOC=1C=C(C=CC1)CC(=O)OC)C1=CC=CC=C1)(=O)=O | C25H30N2O6S
